US08183380B2
3-(Imidazole-1-sulfonyl)-8-oxa-3-aza-bicyclo[3.2.1]octane was prepared in accordance with step A of the general method described in example 76 8-oxa-3-aza-bicyclo[3.2.1]octane hydrochloride and 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate; MS: m/e=244.4 (M+H+).

reactant | 8-oxa-3-aza-bicyclo[3.2.1]octane hydrochloride | Cl.C12CNCC(CC1)O2
reactant | 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C[NH+](C=C1)C
product | 3-(Imidazole-1-sulfonyl)-8-oxa-3-aza-bicyclo[3.2.1]octane | N1(C=NC=C1)S(=O)(=O)N1CC2CCC(C1)O2 | C9H13N3O3S
